US07897767B2
Isobutylamine (15.6 mL, 157 mmol) was added dropwise to a 5° C. solution of 4-chloro-3-nitro[1,5]naphthyridine (15.0 g, 71.6 mmol) in dichloromethane (300 mL). The reaction was allowed to stir at room temperature for 4 hours, then was concentrated under reduced pressure to afford a residue that was treated with water (300 mL). The mixture was stirred for 30 minutes, then a solid was isolated by filtration, rinsed with water (100 mL), and dried in a vacuum oven at 50° C. overnight to afford 17.25 g of N-(2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine as a yellow solid.

reactant | Isobutylamine | 157 mmol, 15.6 mL | C(C(C)C)N | C4H11N
reactant | 4-chloro-3-nitro[1,5]naphthyridine | 71.6 mmol, 15.0 g | ClC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | water | 300 mL | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-(2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine | 17.25 g | CC(CNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-])C | C12H14N4O2
